US07626042B2
(2) 2-Hydroxy-5-phenyl-N-[3,5-bis(trifluoromethyl)phenyl]benzamide
Tetrakis(triphenylphosphine)palladium (16 mg, 0.0014 mmol) was added to a solution of 2-hydroxy-5-iodo-N-[3,5-bis(trifluoromethyl)phenyl]benzamide (200 mg, 0.42 mmol) in 1,2-dimethoxyethane (3 mL) under argon atmosphere, and the mixture was stirred at room temperature for 5 minutes. Then dihydroxyphenylborane (57 mg, 0.47 mmol) and 1 mmol/L aqueous sodium carbonate (1.3 mL) were added and the mixture was refluxed for 2 hours. After the reaction mixture was cooled to room temperature, it was poured into diluted hydrochloric acid and extracted with ethyl acetate. After the ethyl acetate layer was washed successively with water and brine, dried over anhydrous sodium sulfate, the residue obtained by evaporation of the solvent under reduced pressure was purified by column chromatography on silica gel (n-hexane:ethyl acetate=6:1→3:1) to give the title compound (109 mg, 61.1%) as a white crystal.

reactant | 2-hydroxy-5-iodo-N-[3,5-bis(trifluoromethyl)phenyl]benzamide | 0.42 mmol, 200 mg | OC1=C(C(=O)NC2=CC(=CC(=C2)C(F)(F)F)C(F)(F)F)C=C(C=C1)I | C15H8F6INO2
reactant | dihydroxyphenylborane | 0.47 mmol, 57 mg | OB(C1=CC=CC=C1)O | C6H7BO2
reactant | sodium carbonate | 1 mmol/L, 1.3 mL | C([O-])([O-])=O.[Na+].[Na+]
reactant | hydrochloric acid | Cl | ClH
solvent | 1,2-dimethoxyethane | 3 mL | COCCOC | C4H10O2
catalyst | Tetrakis(triphenylphosphine)palladium | 0.0014 mmol, 16 mg | C=1C=CC(=CC1)[P](C=2C=CC=CC2)(C=3C=CC=CC3)[Pd]([P](C=4C=CC=CC4)(C=5C=CC=CC5)C=6C=CC=CC6)([P](C=7C=CC=CC7)(C=8C=CC=CC8)C=9C=CC=CC9)[P](C=1C=CC=CC1)(C=1C=CC=CC1)C=1C=CC=CC1
product | 2-Hydroxy-5-phenyl-N-[3,5-bis(trifluoromethyl)phenyl]benzamide | 109 mg, 61.1% | OC1=C(C(=O)NC2=CC(=CC(=C2)C(F)(F)F)C(F)(F)F)C=C(C=C1)C1=CC=CC=C1 | C21H13F6NO2
